US05220045
Using a 1 liter flask, 0.40 mol triethylamine is added with stirring at room temperature to 0.40 mol 2-ethyl hexane carboxylic acid. After the exothermic reaction has abated, the reaction mixture is diluted with 65 ml cyclohexane and 0.20 mol cobalt nitrate is added. After stirring for 30 minutes, the reaction solution is filtered, leaving a 55.5% blue cobalt octoate solution in cyclohexane.

reactant | triethylamine | 0.40 mol | C(C)N(CC)CC | C6H15N
reactant | 2-ethyl hexane carboxylic acid | C(C)C(CC(=O)O)CCCC | C9H18O2
reactant | cobalt nitrate | 0.20 mol | [N+](=O)([O-])[O-].[Co+2].[N+](=O)([O-])[O-]
solvent | cyclohexane | 65 ml | C1CCCCC1 | C6H12
product | cobalt octoate | 55.5% | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Co+2] | InChI=1S/2C8H16O2.Co/c2*1-3-5-6-7(4-2)8(9)10;/h2*7H,3-6H2,1-2H3,(H,9,10);/q;;+2/p-2
